US09447106B2
Step 2: N-((3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)methyl)-2,2,2-trifluoro-N-methylacetamide
To a solution of N-((3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)methyl)-2,2,2-trifluoroacetamide (40 mg, 0.091 mmol) in 5 mL of acetone was added K2CO3 (50 mg) and CH3I (0.5 mL). After stirring at rt for 4 hr, the mixture was concentrated. The residue was partitioned between 10 mL of water and 10 mL of DCM. The organic layer was concentrated and purified by Pre-TLC (DCM/MeOH=20/1) to give a yellow solid (30 mg, 73%). MS (ESI) m/e [M+1]+ 451.9.

reactant | N-((3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)methyl)-2,2,2-trifluoroacetamide | 0.091 mmol, 40 mg | C(#N)C=1C(=NN2C1N=CC=C2CNC(C(F)(F)F)=O)C2=CC=C(C=C2)OC2=CC=CC=C2 | C22H14F3N5O2
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 0.5 mL | CI | CH3I
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | N-((3-cyano-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidin-7-yl)methyl)-2,2,2-trifluoro-N-methylacetamide | 30 mg, 73% | C(#N)C=1C(=NN2C1N=CC=C2CN(C(C(F)(F)F)=O)C)C2=CC=C(C=C2)OC2=CC=CC=C2 | C23H16F3N5O2
